US08809339B2
Into a 100-mL round bottom flask, was placed a solution of tert-butyl 3-(3-((2-((5-(3,4-dimethylphenyl)pyrazin-2-yl)carbamoyl)-4-(piperidin-1-yl)phenyl)carbamoyl)benzylthio)-propanoate (480 mg, 0.71 mmol, 1.00 equiv) in dichloromethane (25 mL), and trifluoroacetic acid (12.5 mL). The resulting solution was stirred for 2 h at room temperature. The resulting mixture was concentrated under vacuum. The crude product (300 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA to yield 56.1 mg (13%) of 3-(3-((2-((5-(3,4-dimethylphenyl)pyrazin-2-yl)carbamoyl)-4-(piperidin-1-yl)phenyl)carbamoyl)benzylthio)-propanoic acid as a yellow solid. 1H-NMR (300 MHz, DMSO, ppm): δ 11.34 (s, 1H), 11.06 (s, 1H), 9.39 (d, J=1.2 Hz, 1H), 9.03 (d, J=1.2 Hz, 1H), 8.13 (d, J=9 Hz, 1H), 7.92˜7.84 (m, 3H), 7.78 (d, J=7.2 Hz, 1H), 7.55˜7.46 (m, 3H), 7.29 (d, J=8.1 Hz, 1H), 3.83 (s, 1H), 3.28 (m, 4H), 2.73˜2.72 (m, 2H), 2.32 (s, 3H), 2.28˜2.27 (m, 4H), 1.61˜4.58 (m, 6H). MS (ES, m/z): 624 [M+H]+.

reactant | tert-butyl 3-(3-((2-((5-(3,4-dimethylphenyl)pyrazin-2-yl)carbamoyl)-4-(piperidin-1-yl)phenyl)carbamoyl)benzylthio)-propanoate | 0.71 mmol, 480 mg, 1.00 equiv | CC=1C=C(C=CC1C)C=1N=CC(=NC1)NC(=O)C1=C(C=CC(=C1)N1CCCCC1)NC(=O)C=1C=C(CSCCC(=O)OC(C)(C)C)C=CC1 | C39H45N5O4S
reactant | trifluoroacetic acid | 12.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 3-(3-((2-((5-(3,4-dimethylphenyl)pyrazin-2-yl)carbamoyl)-4-(piperidin-1-yl)phenyl)carbamoyl)benzylthio)-propanoic acid | 56.1 mg, 13% | CC=1C=C(C=CC1C)C=1N=CC(=NC1)NC(=O)C1=C(C=CC(=C1)N1CCCCC1)NC(=O)C=1C=C(CSCCC(=O)O)C=CC1 | C35H37N5O4S
